US04563446
(E)-7-(3-Pyridyl)-7-(2-thienyl)-6-heptenoic acid (0.4 g, 1.4 mmoles) was dissolved in dry tetrahydrofuran (20 ml) and lithium aluminum hydride (0.1 g, 2.6 mmoles) was added to the solution. The mixture was stirred at 50° C. for an hour, followed by addition of a saturated aqueous Rochelle salt solution (10 ml). The organic alyer was separated and the precipitate was washed with tetrahydrofuran (20 ml). The tetrahydrofuran solutions were combined, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography using ethyl acetate as the eluent to give (E)-7-(3-pyridyl)-7-(2-thienyl)-6-hepten-1-ol (0.21 g, 52%) (Compound I-17).

reactant | (E)-7-(3-Pyridyl)-7-(2-thienyl)-6-heptenoic acid | 1.4 mmoles, 0.4 g | N1=CC(=CC=C1)\C(=C/CCCCC(=O)O)\C=1SC=CC1 | C16H17NO2S
reactant | lithium aluminum hydride | 2.6 mmoles, 0.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Rochelle salt | 10 ml | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (E)-7-(3-pyridyl)-7-(2-thienyl)-6-hepten-1-ol | 0.21 g, 52% | N1=CC(=CC=C1)\C(=C/CCCCCO)\C=1SC=CC1 | C16H19NOS
